US04598149
Step A: Preparation of 5-Chloro-6-hydroxy-4-methylpyrimidine
Under N2, a solution of ethyl 2-chloroacetoacetate (1.8 ml, d=1.15, 0.013 mol) in CHCl3 (50 ml) was added dropwise to a solution 4-methoxybenzamidine (3.9 g, 0.026 mol) in CHCl3 (100 ml). After stirring overnight, the reaction mixture was filtered and the filtrate was washed with dilute NaOH solution. The aqueous layer was extracted with CH2Cl2 (3×) and the organic layer was dried, filtered and concentrated to dryness. The residue was chromatographed on silica gel and the product was eluted with 2% CH3OH-CHCl3 (v/v) to yield 0.7 g (22%) of product m.p. 250°-251° C.

reactant | ethyl 2-chloroacetoacetate | 0.013 mol, 1.8 ml | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | 4-methoxybenzamidine | 0.026 mol, 3.9 g | COC1=CC=C(C(=N)N)C=C1 | C8H10N2O
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Chloro-6-hydroxy-4-methylpyrimidine | 0.7 g, 22% | ClC=1C(=NC=NC1O)C | C5H5ClN2O
